US06541505B1
2-[(4-{4-[2-(3-Cyano-1H-indol-5-yl)-ethylcarbamoyl]-phenyl}-pyrimidin-2-yl)-methyl-amino]-ethanesulfonic acid.
Using 2-methylamino-ethyl sulphonic acid and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates.

reactant | 2-methylamino-ethyl sulphonic acid | CNCCS(=O)(=O)O | C3H9NO3S
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | 2-[(4-{4-[2-(3-Cyano-1H-indol-5-yl)-ethylcarbamoyl]-phenyl}-pyrimidin-2-yl)-methyl-amino]-ethanesulfonic acid | C(#N)C1=CNC2=CC=C(C=C12)CCNC(=O)C1=CC=C(C=C1)C1=NC(=NC=C1)N(CCS(=O)(=O)O)C | C25H24N6O4S
